US09062032B2
To 4.8 g of tert-butyl ethyl 2,2′-piperazine-1,4-diyldiacetate was added 20 mL of a 4M hydrogen chloride/ethyl acetate solution, followed by stirring for 2 hours at room temperature. The generated insoluble material was collected by filtration, thereby obtaining 4.0 g of [4-(2-ethoxy-2-oxoethyl)piperazin-1-yl]acetic acid dihydrochloride.

reactant | tert-butyl ethyl 2,2′-piperazine-1,4-diyldiacetate | 4.8 g | N1(CCN(CC1)CC(=O)OCC)CC(=O)OC(C)(C)C | C14H26N2O4
reactant | hydrogen chloride ethyl acetate | 4M | Cl.C(C)(=O)OCC
product | [4-(2-ethoxy-2-oxoethyl)piperazin-1-yl]acetic acid dihydrochloride | 4.0 g | Cl.Cl.C(C)OC(CN1CCN(CC1)CC(=O)O)=O | InChI=1S/C10H18N2O4.2ClH/c1-2-16-10(15)8-12-5-3-11(4-6-12)7-9(13)14;;/h2-8H2,1H3,(H,13,14);2*1H
